US07935848B2
b) 1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)-4-(pyridin-2-yl)but-3-yn-1-ol
To a round bottom flask were added 1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)but-3-yn-1-ol (0.47 g, 2.3 mmol), triethylamine (10 mL), 2-bromopyridine (0.28 mL, 2.7 mmol), bis(triphenylphosphine)palladium(II) dichloride (16 mg, 0.023 mmol) and copper(I) iodide (9 mg, 0.045 mmol). After this mixture was stirred with heating overnight at 60° C., it was allowed to cool to room temperature. The reaction was mixed directly with silica, concentrated and purified by silica chromatography to give the desired coupling product (286 mg).

reactant | 1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)but-3-yn-1-ol | 2.3 mmol, 0.47 g | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)C(CC#C)O | C14H24O
reactant | 2-bromopyridine | 2.7 mmol, 0.28 mL | BrC1=NC=CC=C1 | C5H4BrN
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.023 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.045 mmol, 9 mg | [Cu]I
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
product | 1-((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)-4-(pyridin-2-yl)but-3-yn-1-ol | 286 mg | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)C(CC#CC1=NC=CC=C1)O | C19H27NO
